Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old man who presented to the ED ___ with c/o chest pain, 
dizziness and vision changes while at work as a ___. He states 
it feels like he's looking through one eye. During his 
observation stay in the ED he also experienced nausea and 
headache.  An exercise stress test was attempted today but was 
stopped after 1 min due to patient reports of lightheadedness 
and near fall. No EKG changes. He was then admitted for further 
management.

 
Past Medical History:
"hole in my heart" s/p repair at ___ no longer 
requiring follow up  
Per chart IVDA, patient denies at present  
"nerve pain" in bilat hands d/t using ___ hammer for years  
ADHD  
MRSA skin infections while living in sober house  
Right hand cellulitis  
lipomas  

 
Social History:
___
Family History:
Father died of a heart attack at age ___, mom died of cancer in 
her ___. 5 sisters and 3 brothers without heart disease 
 
Physical Exam:
ADMISSION EXAM:
EKG: rate 57 SB with 1st degree AVB PR 0.23 QRS 0.10 QT 0.44  
 TWI aVL, V1 and V2  
 Tele: SR  
 VS: 142/83, 58, 18, 95% ra, 97.6  
 Physical Exam:  
 Gen: anxious appearing man sitting in bed  
 Neuro: alert and oriented w/o focal deficit  
 Neck/JVP: no JVD  
 CV: RRR, no M/R/G  
 Chest: exp wheezes BUL anterior no crackles or rhonchi 
breathing regular and unlabored  
 ABD: soft NT/ND + bs + mid upper quadrant lipoma  
 Extr: warm and well perfused PPP bilat no edema left and right 
forearm with lipoma  
 Skin: WD+I small scabs noted on right hand no erythema  

DISCHARGE EXAM:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: 97.8 141/84 58 16 94% on RA
tele: NSR, no events
Gen: ___ yr old man in NAD
Neuro: alert and oriented x 3. No focal deficits or asymmetries 
noted
Neck/JVP: no JVD
CV: S1S2 regular, no MRG
Chest: Initial rhonchi on expiration, and then clear b/l
ABD: soft NT/ND + bs + mid upper quadrant lipoma
Extr: warm and well perfused PPP bilat no edema left and right 
forearm with lipoma
Skin: WD+I small scabs noted on right hand no erythema

 
Pertinent Results:
___ 01:30AM BLOOD cTropnT-<0.01
___ 07:42AM BLOOD cTropnT-<0.01
___ 06:25AM BLOOD cTropnT-<0.01
___ 01:34AM BLOOD Lactate-0.9
___ 01:30AM BLOOD Lipase-25
___ 01:30AM BLOOD ALT-36 AST-48* AlkPhos-75 TotBili-0.3
___ 01:30AM BLOOD Glucose-74 UreaN-13 Creat-0.8 Na-138 
K-5.1 Cl-102 HCO3-26 AnGap-15
___ 06:25AM BLOOD UreaN-8 Creat-0.6 Na-138 K-4.1 Cl-104 
HCO3-26 AnGap-12
___ 01:30AM BLOOD Neuts-43.4 ___ Monos-8.3 Eos-5.5 
Baso-0.9 Im ___ AbsNeut-2.52 AbsLymp-2.42 AbsMono-0.48 
AbsEos-0.32 AbsBaso-0.05
___ 01:30AM BLOOD WBC-5.8 RBC-4.26* Hgb-13.2* Hct-38.9* 
MCV-91 MCH-31.0 MCHC-33.9 RDW-12.7 RDWSD-41.9 Plt ___
___ 06:25AM BLOOD WBC-4.5 RBC-4.45* Hgb-13.8 Hct-39.9* 
MCV-90 MCH-31.0 MCHC-34.6 RDW-12.4 RDWSD-40.7 Plt ___

TTE: ___
Findings
LEFT ATRIUM: Normal LA volume index. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. No ASD by 2D or 
color Doppler. Normal IVC diameter (<=2.1cm) with >50% decrease 
with sniff (estimated RA pressure ___ mmHg). 

LEFT VENTRICLE: Normal LV wall thickness, cavity size, and 
regional/global systolic function (biplane LVEF>55%). Estimated 
cardiac index is normal (>=2.5L/min/m2). Global longitudinal 
strain is normal (nl <-20%) False LV tendon (normal variant). 
TDI E/e' < 8, suggesting normal PCWP (<12mmHg). No resting LVOT 
gradient. No VSD. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal diameter of aorta at the sinus, ascending and arch 
levels. Focal calcifications in aortic root. Normal descending 
aorta diameter. No 2D or Doppler evidence of distal arch 
coarctation. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
Trace AR. 

MITRAL VALVE: Normal mitral valve leaflets. No MVP. No mass or 
vegetation on mitral valve. Mild mitral annular calcification. 
Mild (1+) MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. No TS. Normal PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflets. 
No PS. No PR. 

PERICARDIUM: No pericardial effusion. 

GENERAL COMMENTS: The patient appears to be in sinus rhythm.
Conclusions
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. No PFO/ASD occluder or patch is 
seen. The estimated right atrial pressure is ___ mmHg. Normal 
left ventricular wall thickness, cavity size, and 
regional/global systolic function (biplane LVEF = 63%). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). There is no ventricular septal defect. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are mildly thickened. 
There is no aortic valve stenosis. Trace aortic regurgitation is 
seen. The mitral valve appears structurally normal with mild 
[1+] mitral regurgitation. There is no mitral valve prolapse. No 
mass or vegetation is seen on the mitral valve. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Normal left ventricular wall thickness, cavity size, 
and regional/global systolic function. Mild mitral regurgitation 
with normal valve morphology. Trace aortic regurgitation with 
normal valve morphology. 
 
Brief Hospital Course:
Mr. ___ was admitted from the emergency department and was 
ruled out by troponins x3. He underwent an exercise stress test 
which was stopped after a minute and a half due to dizziness and 
pre-syncope symptoms. There were no ischemic EKG changes noted. 
He was monitored on telemetry and continued to have episodes of 
"fleeting" chest pain that lasted seconds and resolved without 
intervention. He had an echocardiogram which showed a normally 
functioning heart.

Assessment/Plan: ___ year old man who presented to the ED ___ 
with c/o chest pain, dizziness and vision changes while at work 
as a ___. Troponins negative for MI, with no acute EKG 
changes. Experienced dizziness and near fall with exercise 
stress test. Continued to have fleeting ___ chest pain. No EKG 
changes with pain. Echo is normal.
# Chest pain: + Family history and active smoker. Continues with 
left sided CP worse with movement or inspiration. Did not 
respond to NTG. 
-Echo to assess for valve disorder/malformations vegetations: 
normal echo
-blood cultures for possible endocarditis pending. Based on pt's 
clinical status and echo results, there is no indication to keep 
the pt until these results are finalized

# Hypertenson: SBP 140's-150's
-Pt was on Lisinopril in the past, but ran out of medication
-Restarted Lisinopril

# Nicotine Dependence: Patient verbalizes desire to quit and 
interest in Chantix.
-14mg Nicotine Patch while in hospital
-Has follow up in place with a new PCP ___ ___

# IVDA: Pt denies current use although there was a ER visit from 
___ for right hand cellulitis thought to be d/t injection. 
When questioned he denies it was due to current injection. 
Additionally he has an Rx for Suboxone most recently filled 
___. Patient states he weaned himself off Suboxone 3 weeks 
to 1 month ago without issue and that he did not fill this Rx. 
States his former girlfriend may have filled it.
-monitor for sign/symptom withdrawl
# ADHD:
-Continue Ritalin 20mg tid (confirmed on MA PAT)

# Nerve Pain:
-Continue gabapentin 800mg tid

#. Disp
-DC home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MethylPHENIDATE (Ritalin) 20 mg PO TID 
2. Gabapentin 800 mg PO TID 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY  
2.  Gabapentin 800 mg PO TID  
3.  MethylPHENIDATE (Ritalin) 20 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain
Hypertension
Tobacco abuse
ADHD
Neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: 97.8 141/84 58 16 94% on RA
tele: NSR, no events
Gen: ___ yr old man in NAD
Neuro: alert and oriented x 3. No focal deficits or asymmetries 
noted
Neck/JVP: no JVD
CV: S1S2 regular, no MRG
Chest: Initial rhonchi on expiration, and then clear b/l
ABD: soft NT/ND + bs + mid upper quadrant lipoma
Extr: warm and well perfused PPP bilat no edema left and right 
forearm with lipoma
Skin: WD+I small scabs noted on right hand no erythema

Assessment/Plan: ___ year old man who presented to the ED ___ 
with c/o chest pain, dizziness and vision changes while at work 
as a ___. Troponins negative for MI, with no acute EKG 
changes. Experienced dizziness and near fall with exercise 
stress test. Continued to have fleeting ___ chest pain. No EKG 
changes with pain. Echo is normal.
# Chest pain: + Family history and active smoker. Continues with 
left sided CP worse with movement or inspiration. Did not 
respond to NTG. 
-Echo to assess for valve disorder/malformations vegetations: 
normal echo
-blood cultures for possible endocarditis pending. Based on pt's 
clinical status and echo results, there is no indication to keep 
the pt until these results are finalized

# Hypertenson: SBP 140's-150's
-Pt was on Lisinopril in the past, but ran out of medication
-Restarted Lisinopril
# Nicotine Dependence: Patient verbalizes desire to quit and 
interest in Chantix.
-14mg Nicotine Patch while in hospital
-Has follow up in place with a new PCP ___ ___
# IVDA: Pt denies current use although there was a ER visit from 
___ for right hand cellulitis thought to be d/t injection. 
When questioned he denies it was due to current injection. 
Additionally he has an Rx for Suboxone most recently filled 
___. Patient states he weaned himself off Suboxone 3 weeks 
to 1 month ago without issue and that he did not fill this Rx. 
States his former girlfriend may have filled it.
-monitor for sign/symptom withdrawl
# ADHD:
-Continue Ritalin 20mg tid (confirmed on MA PAT)
# Nerve Pain:
-Continue gabapentin 800mg tid
#. Disp
-DC home

 
Discharge Instructions:
You were admitted after presenting to the ED with chest pain. 
Your EKG and lab work showed that you did not have a heart 
attack. You underwent an exercise stress test which was stopped 
due to dizziness. You then had an echocardiogram which showed 
that you had a normal heart. It was note that your blood 
pressure was high during your hospitalization. You were started 
on Lisinopril to help lower your blood pressure. Please continue 
on all of your other current home medications. 
It is also strongly advised that you stop smoking, as there is a 
high correlation between smoking and heart disease. The results 
of the blood cultures taken in the Emergency Room are not yet 
available. However, base on your clinical course and Echo 
results, it is highly unlikely that you have a blood stream or 
heart valve infection.
 
Followup Instructions:
___